US07863302B2
(1-Methyl-6-trifluoromethanesulfonyloxy-1H-indol-3-yl)-acetic acid methyl ester
A −40° C. solution of (6-hydroxy-1-methyl-1H-indol-3-yl)-acetic acid methyl ester (0.231 g, 1.05 mmol) in dichloromethane (20 mL) and triethylamine (0.294 mL, 2.11 mmol) is treated with trifluoromethanesulfonic anhydride (0.266 mL, 1.58 mmol). The mixture is stirred at −40° C. for 2 hours and quenched with MeOH (1.0 mL). The mixture is concentrated to a residue which is purified by silica gel chromatography eluting with 25-30% EtOAc/Hexanes to provide the title compound (0.26 g, 71%). ES/MS m/e 351.8 (M+1), 368.8 (M+18).

reactant | (6-hydroxy-1-methyl-1H-indol-3-yl)-acetic acid methyl ester | 1.05 mmol, 0.231 g | COC(CC1=CN(C2=CC(=CC=C12)O)C)=O | C12H13NO3
reactant | triethylamine | 2.11 mmol, 0.294 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.58 mmol, 0.266 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (1-Methyl-6-trifluoromethanesulfonyloxy-1H-indol-3-yl)-acetic acid methyl ester | 0.26 g, 71% | COC(CC1=CN(C2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C)=O | C13H12F3NO5S
